### PR TITLE
Functoriality of suspensions

### PR DESCRIPTION
**Pull request by tomdjong**

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Welcome back, Tom! That didn't take long :)

**Comment by tomdjong** [comment]
@fredrik-bakke It's addictive as I'm sure you know!

**Comment by fredrik-bakke** [comment]
I have no idea what you're on about 😇

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 1]
```diff
@@ -182,3 +183,37 @@ module _
...
+
+### Inverting squares of identifications
+
+```agda
+module _
+  {l : Level} {A : UU l} {x y z w : A}
+  where
+
+  coherence-square-identifications-horizontal-inv :
+    (left : x ＝ z) (bottom : z ＝ w) (top : x ＝ y) (right : y ＝ w) →
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:195]: The standard order is `top-left-right-bottom` and it is beneficial to maintain this order everywhere for consistency.

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 2]
```diff
@@ -182,3 +183,37 @@ module _
...
+
+### Functions acting on squares of identifications
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} {x y z w : A} (f : A → B)
+  where
+
+  coherence-square-identifications-ap :
+    (left : x ＝ z) (bottom : z ＝ w) (top : x ＝ y) (right : y ＝ w) →
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:210]: Same here. Order `top-left-right-bottom`

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 3]
```diff
@@ -182,3 +183,37 @@ module _
...
 ```
+
+### Inverting squares of identifications
+
+```agda
+module _
+  {l : Level} {A : UU l} {x y z w : A}
+  where
+
+  coherence-square-identifications-horizontal-inv :
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:194]: I see you've been trying to copy the naming scheme for commuting squares of maps, which is good. Sadly, it it is outdated, and this definition should actually be called 
```agda
horizontal-inv-coherence-square-identifications
```

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 4]
```diff
@@ -182,3 +183,37 @@ module _
...
+```
+
+### Functions acting on squares of identifications
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} {x y z w : A} (f : A → B)
+  where
+
+  coherence-square-identifications-ap :
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:209]: Here too the naming scheme is outdated:

```agda
ap-coherence-square-identifications
```

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 5]
```diff
@@ -182,3 +183,37 @@ module _
...
+    (left : x ＝ z) (bottom : z ＝ w) (top : x ＝ y) (right : y ＝ w) →
+    coherence-square-identifications top left right bottom →
+    coherence-square-identifications
+      ( ap f top)
+      ( ap f left)
+      ( ap f right)
+      ( ap f bottom)
+  coherence-square-identifications-ap left refl refl refl coh =
+    ap (λ q → ap f q ∙ ap f refl) (inv right-unit ∙ coh)
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:218]: `ap f refl` should compute definitionally to `refl`.

File: src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md [hunk 6]
```diff
@@ -0,0 +1,191 @@
...
+## Definition
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B)
+  where
+
+  map-suspension-structure : suspension-structure A (suspension B)
+  map-suspension-structure =
+    north-suspension , south-suspension , meridian-suspension ∘ f
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md:43]: The convention is to define terms of record types by copattern matching, i.e.
```suggestion
pr1 map-suspension-structure = north-suspension
pr1 (pr2 map-suspension-structure) = south-suspension
pr2 (pr2 map-suspension-structure) = meridian-suspension ∘ f
```
As far as I can recall, this was originally due to performance considerations. I don't know if that is still the case, though.

Comment (tomdjong) [reply src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md:43]: Ah, yes, I knew this, but forgot :(

File: src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md [hunk 7]
```diff
@@ -0,0 +1,191 @@
...
+  pr1 htpy-function-out-of-suspension-comp-map-suspension =
+    preserves-comp-map-suspension-north
+  pr1 (pr2 htpy-function-out-of-suspension-comp-map-suspension) =
+    preserves-comp-map-suspension-south
+  pr2 (pr2 htpy-function-out-of-suspension-comp-map-suspension) =
+    coherence-square-identifications-comp-map-suspension
+
+  preserves-comp-map-suspension' :
+    map-suspension g ∘ map-suspension f ~ map-suspension (g ∘ f)
+  preserves-comp-map-suspension' =
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md:183]: A better naming scheme for recording inverses that we've been moving to is
```agda
inv-preserves-comp-map-suspension
```

File: src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md [hunk 8]
```diff
@@ -0,0 +1,191 @@
...
+
+  coherence-square-identifications-comp-map-suspension :
+    (a : A) →
+    coherence-square-identifications
+      ( preserves-comp-map-suspension-north)
+      ( ap (map-suspension g ∘ map-suspension f) (meridian-suspension a))
+      ( ap (map-suspension (g ∘ f)) (meridian-suspension a))
+      ( preserves-comp-map-suspension-south)
+  coherence-square-identifications-comp-map-suspension a =
+    coherence-square-identifications-comp-horizontal
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md:137]: Ah, I see there are remenants of this naming scheme for coherence squares of identifications as well. Then I say you can just leave those names as is for now.

File: src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/functoriality-suspensions.lagda.md]: No worries!

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-identifications.lagda.md:195]: Yes, it would seem so. That's my old code, so my bad!

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-identifications.lagda.md:194]: Nevermind about these. Changing them introduces inconsistencies, to better to keep the old naming scheme until all of them are changed simultaneously.

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 1 above)
Comment (tomdjong) [reply src/foundation/commuting-squares-of-identifications.lagda.md:195]: But I should still update my new code to uses the standard order, right?

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-identifications.lagda.md:209]: Nevermind about these. Changing them introduces inconsistencies, so better to keep the old naming scheme until all of them are changed simultaneously.

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 5 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-identifications.lagda.md:218]:
```suggestion
  coherence-square-identifications-ap left refl refl refl coh =
    ap (λ q → ap f q ∙ refl) (inv right-unit ∙ coh)
```

File: src/foundation/commuting-squares-of-identifications.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-identifications.lagda.md:195]: Yeah, that would be good. I'll fix the other occurences

**Review by fredrik-bakke — APPROVED** [review]
Otherwise, your code looks very good! It suffers from some slightly suboptimal naming schemes, but none of them originate from you, and I've noted them down so I can fix them later :)

**Comment by tomdjong** [comment]
Thanks @fredrik-bakke! I already got the next PR lined up :innocent:
